US07671235B2
Trifluoro-methanesulfonic acid 5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl ester (13.0 g, 0.044 mole), sodium benzenesulfonate (7.25 g, 0.044 mole), 4,5-bis(diphenylphosphino,-9,9-dimethyl Xanthos (1.1 g, 0.004 mole), tris(dibenzylideneacetone) dipalladium(0) (1.0 g, 0.004 mole), cesium carbonate (5.0 g) and tetrabutylammonium fluoride (5 mL of 1M in THF) were all added to 100 mL toluene, and the reaction mixture was refluxed for four hours. The reaction mixture was cooled to room temperature and partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulfate, and solvent was removed under reduced pressure. The resulting residue was purified by medium pressure chromatography eluting with methylene chloride to yield 5.5 g of 6-benzenesulfonyl-3,4-dihydro-2H-naphthalen-1-one. Mp: 121° C. MS: 287 (M+H)+.

reactant | Trifluoro-methanesulfonic acid 5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl ester | 0.044 mole, 13.0 g | O=C1C=2C=CC(=CC2CCC1)OS(=O)(=O)C(F)(F)F | C11H9F3O4S
reactant | sodium benzenesulfonate | 0.044 mole, 7.25 g | C1(=CC=CC=C1)S(=O)(=O)[O-].[Na+]
reactant | cesium carbonate | 5.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tetrabutylammonium fluoride | 1M, 5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.004 mole, 1.0 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 6-benzenesulfonyl-3,4-dihydro-2H-naphthalen-1-one | 5.5 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)=O | C16H14O3S
